.subckt oai2111_x1 A1 A2 B1 B2 C X VDD VSS
XOAI2111OR0_PA0 pmid_OAI2111OR0_0 A1 VDD VDD pmos w=2u l=100n
XOAI2111OR0_PB0 oai2111_or_n A2 pmid_OAI2111OR0_0 VDD pmos w=2u l=100n
XOAI2111OR0_NA0 oai2111_or_n A1 VSS VSS nmos w=1u l=100n
XOAI2111OR0_NB0 oai2111_or_n A2 VSS VSS nmos w=1u l=100n
XOAI2111ORI0_P0 oai2111_or oai2111_or_n VDD VDD pmos w=2u l=100n
XOAI2111ORI0_N0 oai2111_or oai2111_or_n VSS VSS nmos w=1u l=100n
XOAI2111N40_PA0 X oai2111_or VDD VDD pmos w=2u l=100n
XOAI2111N40_PB0 X B1 VDD VDD pmos w=2u l=100n
XOAI2111N40_PC0 X B2 VDD VDD pmos w=2u l=100n
XOAI2111N40_PD0 X C VDD VDD pmos w=2u l=100n
XOAI2111N40_ND0 X C na4_3 VSS nmos w=1u l=100n
XOAI2111N40_NC0 na4_3 B2 na4_2 VSS nmos w=1u l=100n
XOAI2111N40_NB0 na4_2 B1 na4_1 VSS nmos w=1u l=100n
XOAI2111N40_NA0 na4_1 oai2111_or VSS VSS nmos w=1u l=100n
.ends oai2111_x1
